US07501411B2
Step 5: Benzo[b]thiophene-7-carboxylic acid amide
A solution of benzo[b]thiophene-7-carboxylic acid (505 mg, 2.84 mmol) in dichloromethane (10 mL) is stirred at rt and thionyl chloride (669 mg, 5.68 mmol, 2.0 equiv.) is added, followed by DMF (0.06 mL), causing gas evolution. The resulting solution is stirred at rt for 1 hour. Aqueous ammonia (10 mL) is then added cautiously to the mixture causing vigorous gas evolution. The resulting mixture is then diluted with water (50 mL), and pH is brought to neutral by adding saturated NaHCO3 (aq.). The aqueous layer is extracted with DCM, and the organic layers are combined and dried over Na2SO4. Evaporation of the solvent under reduced pressure affords the title compound (81% pure) as a yellow solid (500 mg, 98%) which is used without further purification.

reactant | benzo[b]thiophene-7-carboxylic acid | 2.84 mmol, 505 mg | S1C2=C(C=C1)C=CC=C2C(=O)O | C9H6O2S
reactant | thionyl chloride | 5.68 mmol, 669 mg, 2.0 equiv. | S(=O)(Cl)Cl | Cl2OS
reactant | ammonia | 10 mL | N | H3N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | 50 mL | O | H2O
solvent | DMF | 0.06 mL | CN(C)C=O | C3H7NO
product | Benzo[b]thiophene-7-carboxylic acid amide | 500 mg | S1C2=C(C=C1)C=CC=C2C(=O)N | C9H7NOS
